US07205318B2
Cis-1,2-diaminocyclohexane (0.70 g, 6.86 mmol) was stirred in CH2Cl2 (40 mL) at 0° C. under N2. A solution of 4-iodobenzenesulfonic acid (0.85 g, 2.81 mmol) in CH2Cl2 (20 mL) was added dropwise to the above solution. It was stirred for 30 min at 0° C. LC/MS showed completion of the reaction. It was washed with 1N HCl. The aqueous solution was basified with 1N NaOH until formation of a cloudy solution. It was extracted with CH2Cl2 (3×), washed with brine, dried (MgSO4), and concentrated to dryness to give cis-N-(2-amino-cyclohexyl)-4-iodobenzenesulfonamide (0.37 g, yield: 35%). 1H NMR (400 MHz, CDCl3) δ 7.86 (d, J=6.8 Hz, 2H), 7.60 (d, J=6.7 Hz, 2H), 3.15 (m, 1H), 2.84 (m, 1H), 1.48 (m, 10H) ppm.

reactant | Cis-1,2-diaminocyclohexane | 6.86 mmol, 0.70 g | N[C@H]1[C@H](CCCC1)N | C6H14N2
reactant | 4-iodobenzenesulfonic acid | 2.81 mmol, 0.85 g | IC1=CC=C(C=C1)S(=O)(=O)O | C6H5IO3S
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | cis-N-(2-amino-cyclohexyl)-4-iodobenzenesulfonamide | 0.37 g, yield: 35% | N[C@@H]1[C@@H](CCCC1)NS(=O)(=O)C1=CC=C(C=C1)I | C12H17IN2O2S
